US07491713B2
Step B. Benzyl 4-[1-(ethoxycarbonyl)-3-oxopropyl]piperidine-1-carboxylate
Benzyl 4-[1-(ethoxycarbonyl)but-3-en-1-yl]piperidine-1-carboxylate (4.08 g, 11.8 mmol) was dissolved in THF (45 mL), and osmium tetroxide (0.45 mL, 2.5% solution in t-butanol) was added followed by a solution of sodium periodate (7.57 g, 35.4 mmol) in water (37 mL). After 24 h, the reaction was diluted with saturated aqueous Na2SO3 and NaHCO3 and extracted with ethyl acetate (4×). The combined organic washes were dried over sodium sulfate, filtered and evaporated. The crude product was purified by silica gel chromatography, eluting with a gradient of 50 to 100% EtOAc:hexanes to give the title compound (2.39 g). MS: m/z=348.1 (M+1).

reactant | Benzyl 4-[1-(ethoxycarbonyl)but-3-en-1-yl]piperidine-1-carboxylate | 11.8 mmol, 4.08 g | C(C)OC(=O)C(CC=C)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C20H27NO4
reactant | sodium periodate | 35.4 mmol, 7.57 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | THF | 45 mL | C1CCOC1 | C4H8O
solvent | water | 37 mL | O | H2O
solvent | Na2SO3 | [O-]S(=O)[O-].[Na+].[Na+]
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | osmium tetroxide | 0.45 mL | [Os](=O)(=O)(=O)=O
product | Benzyl 4-[1-(ethoxycarbonyl)-3-oxopropyl]piperidine-1-carboxylate | 2.39 g | C(C)OC(=O)C(CC=O)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C19H25NO5
